US06342765B1
4-[2-(imidazol-1-yl)-1-(4-fluorophenyl)ethoxy]-2-(4-fluorophenyl) benzoic acid was prepared from methyl 4-[2-(imidazol-1-yl)-1-(4-fluorophenyl)ethoxy]-2-(4-fluorophenyl)benzoate by treatment with aqueous hydroxide in methanol and used without further purification.

reactant | methyl 4-[2-(imidazol-1-yl)-1-(4-fluorophenyl)ethoxy]-2-(4-fluorophenyl)benzoate | N1(C=NC=C1)CC(OC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C25H20F2N2O3
reactant | hydroxide | [OH-]
solvent | methanol | CO | CH4O
product | 4-[2-(imidazol-1-yl)-1-(4-fluorophenyl)ethoxy]-2-(4-fluorophenyl) benzoic acid | N1(C=NC=C1)CC(OC1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C24H18F2N2O3
